US06573377B1
(1) Methyl 1-(2-amino-6-chloro-4-pyrimidinyl)-5-ethyl-4-pyrazolecarboxylate
After suspending 7.79 g portion of 2-amino-4-chloro-6-hydrazinopyrimidine in 100 ml of ethanol, 10.7 g of methyl methoxymethylenepropionylacetate was added thereto, and the mixture was stirred at room temperature for 20 minutes and then at 80° C. for 3 hours. After allowing the reaction solution to stand at 0° C. for 48 hours, the resulting precipitate was collected by filtration and dried to obtain 12.88 g of the title compound.

reactant | 2-amino-4-chloro-6-hydrazinopyrimidine | NC1=NC(=CC(=N1)Cl)NN | C4H6ClN5
reactant | methyl methoxymethylenepropionylacetate | 10.7 g | COC=CCC(=O)CC(=O)OC | C8H12O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | Methyl 1-(2-amino-6-chloro-4-pyrimidinyl)-5-ethyl-4-pyrazolecarboxylate | 12.88 g | NC1=NC(=CC(=N1)N1N=CC(=C1CC)C(=O)OC)Cl | C11H12ClN5O2
